US05482936
Sodium iodide (1 g, 6 mmole) and potassium carbonate (0.8 g, 6 mmole) were added to a solution of N,N-bis(phenylmethyl)-2-(4-chlorobutyl)-1H-imidazo[4,5-c]quinolin-4-amine (0.55 g, 1.2 mmole) in acetone. The reaction mixture was heated at reflux for 4 hours, filtered, and then concentrated under vacuum. The residue was purified by flash chromatography (silica gel eluting with 10-15% ethyl acetate in hexanes v/v). Nuclear magnetic resonance spectroscopy indicated the possible presence of iodo intermediate; so the residue was taken up in acetone, combined with sodium iodide and potassium carbonate and heated at reflux over night. The reaction was worked up to provide 0.38 g of N,N-bis(phenylmethyl)-8,9,10,11 tetrahydropyrido-[1',2':1,2]imidazo[4,5-c]quinolin-4-amine.

reactant | Sodium iodide | 6 mmole, 1 g | [I-].[Na+]
reactant | potassium carbonate | 6 mmole, 0.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-bis(phenylmethyl)-2-(4-chlorobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | 1.2 mmole, 0.55 g | C1(=CC=CC=C1)CN(C1=NC=2C=CC=CC2C2=C1N=C(N2)CCCCCl)CC2=CC=CC=C2 | C28H27ClN4
reactant | acetone | CC(=O)C | C3H6O
product | N,N-bis(phenylmethyl)-8,9,10,11 tetrahydropyrido-[1',2':1,2]imidazo[4,5-c]quinolin-4-amine | 0.38 g | C1(=CC=CC=C1)CN(C=1C=CC=C2C3=C(C=NC12)N=C1N3CCCC1)CC1=CC=CC=C1 | C28H26N4
